US07253174B2
(a) 3-(6-Chloro-pyrimidin-4-ylamino)-4,N-dimethyl-benzamide
To a solution of 4,6-dichloropyrimidine (2.0 g, 13.4 mmol) in p-dioxane (50 mL), 3-amino-4,N-dimethyl-benzamide (3.0 g, 18.3 mmol) and DIEA (2.3 mL) were added. The resulting mixture was heated to reflux for 4 days. The solvent was removed in vacuo, the residue was taken in water and ethyl acetate, and the ethyl acetate layer was separated and concentrated. The product was purified by silica gel column chromatography using ethyl acetate:hexane (1:1) as eluent to afford the pale white solid product (1.6 g, yield 43%). MS (m/z): 277 (M+H).

reactant | 4,6-dichloropyrimidine | 13.4 mmol, 2.0 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 3-amino-4,N-dimethyl-benzamide | 18.3 mmol, 3.0 g | NC=1C=C(C(=O)NC)C=CC1C | C9H12N2O
reactant | DIEA | 2.3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | p-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 3-(6-Chloro-pyrimidin-4-ylamino)-4,N-dimethyl-benzamide | 1.6 g, yield 43% | ClC1=CC(=NC=N1)NC=1C=C(C(=O)NC)C=CC1C | C13H13ClN4O
